US07745641B2
In a similar manner to Step 2 of Example 161, 4-trifluoromethanesulfonyloxy-7-[1-(tert-butoxycarbonyl)-5-(piperidinomethyl)indol-2-yl]isoindolinone (80.0 mg, 0.135 mmol) was dissolved in diethylamine (4.0 mL), and the solution was treated with bis(triphenylphosphine)dichloropalladium (14.3 mg, 0.203 mmol), copper iodide (11.6 mg, 0.0608 mmol) and N-methylpropargylamine (0.114 mL, 1.35 mmol), followed by purification by preparative thin-layer chromatography (chloroform/methanol=5/1 to 3/1) to obtain 4-(3-methylamino-1-propinyl)-7-[1-(tert-butoxycarbonyl)-5-(piperidinomethyl)indol-2-yl]isoindolinone (32.6 mg, yield 47%).

reactant | 4-trifluoromethanesulfonyloxy-7-[1-(tert-butoxycarbonyl)-5-(piperidinomethyl)indol-2-yl]isoindolinone | 0.135 mmol, 80.0 mg | FC(S(=O)(=O)OC1=C2CNC(C2=C(C=C1)C=1N(C2=CC=C(C=C2C1)CN1CCCCC1)C(=O)OC(C)(C)C)=O)(F)F | C28H30F3N3O6S
reactant | N-methylpropargylamine | 1.35 mmol, 0.114 mL | CNCC#C | C4H7N
solvent | diethylamine | 4.0 mL | C(C)NCC | C4H11N
catalyst | bis(triphenylphosphine)dichloropalladium | 0.203 mmol, 14.3 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
catalyst | copper iodide | 0.0608 mmol, 11.6 mg | [Cu](I)I
product | 4-(3-methylamino-1-propinyl)-7-[1-(tert-butoxycarbonyl)-5-(piperidinomethyl)indol-2-yl]isoindolinone | 32.6 mg, yield 47% | CNCC#CC1=C2CNC(C2=C(C=C1)C=1N(C2=CC=C(C=C2C1)CN1CCCCC1)C(=O)OC(C)(C)C)=O | C31H36N4O3
